US08350044B2
Preparation of [2-(5-fluoropyridin-3-yl)-thiazol-5-yl]-1,3-dimethyl-3-(2-methylsulfanyl-ethyl)urea (Compound 74)
To a solution of [2-(5-fluoropyridin-3-yl)-thiazol-5-yl]-1-methyl-3-(2-methylsulfanyl-ethyl)urea (173 mg, 0.53 mmol) in DMF (5 mL) cooled to 0° C. was added NaH (26 mg, 0.65 mmol, 60% dispersion in mineral oil) and the mixture was stirred for 30 min. To this was added iodomethane (47 μL, 0.75 mmol) and the reaction mixture was stirred for 1 h. The reaction was quenched by addition of ethyl acetate and 1 N HCl. The layers were separated, and the ethyl acetate layer was washed three times with water and once with brine, dried over MgSO4, filtered and concentrated to dryness under reduced pressure to give the desired product as a yellow solid (0.110 g, 61%): mp 68-69° C.; 1H NMR (300 MHz, CDCl3) δ 8.90 (s, 1H), 8.47 (d, J=2.8 Hz, 1H), 7.93 (dt, J=9.3, 2.2 Hz, 1H), 7.45 (s, 1H), 3.54 (t, J=6.9 Hz, 2H), 3.41 (s, 3H), 2.94 (s, 3H), 2.74 (t, J=7.1 Hz, 2H), 2.16 (s, 3H); ESIMS m/z 341.1 (M+1).

reactant | [2-(5-fluoropyridin-3-yl)-thiazol-5-yl]-1-methyl-3-(2-methylsulfanyl-ethyl)urea | 0.53 mmol, 173 mg | FC=1C=C(C=NC1)C=1SC(=CN1)N(C(=O)NCCSC)C | C13H15FN4OS2
reactant | NaH | 0.65 mmol, 26 mg | [H-].[Na+]
reactant | iodomethane | 0.75 mmol, 47 μL | IC | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [2-(5-fluoropyridin-3-yl)-thiazol-5-yl]-1,3-dimethyl-3-(2-methylsulfanyl-ethyl)urea | 0.110 g, 61% | FC=1C=C(C=NC1)C=1SC(=CN1)N(C(=O)N(CCSC)C)C | C14H17FN4OS2
